*******************************************************************************
* Generic 3.3V LDO Regulator Model
* Based on AMS1117-3.3 / LD1117-3.3 characteristics
* 1A maximum output current, low dropout (~1.2V @ 1A)
*******************************************************************************

.SUBCKT LDO_3V3 VIN VOUT GND

*------------------------------------------------------------------------------
* Parameters (typical values for AMS1117-3.3)
*------------------------------------------------------------------------------
.PARAM VREF=3.3      ; Output voltage reference
.PARAM IQ=5M         ; Quiescent current (5mA typical)
.PARAM ILIMIT=1.2    ; Current limit (1.2A)
.PARAM VDROPOUT=1.2  ; Dropout voltage at 1A
.PARAM PSRR_DC=60    ; DC PSRR in dB
.PARAM TCOEFF=0.0002 ; Temperature coefficient (200ppm/°C)

*------------------------------------------------------------------------------
* Dropout Voltage Modeling
* Vdropout varies with load current: ~0.5V @ 100mA to 1.2V @ 1A
*------------------------------------------------------------------------------
* Measure output current
HSENSE VOUT VOUT_INT 0
BVDROP VIN VREG VALUE={
+ V(VIN,GND) - (0.5 + 0.7*min(abs(I(HSENSE))/ILIMIT, 1))
+ }

*------------------------------------------------------------------------------
* Error Amplifier and Regulation
* High gain to regulate VOUT to VREF
* Includes line and load regulation effects
*------------------------------------------------------------------------------
EREG VREG GND VALUE={
+ IF(V(VIN,GND) > VREF+0.5,
+   VREF*(1 - (VREF-V(VOUT_INT,GND))*10),
+   V(VIN,GND)*0.7
+ )
+ }

*------------------------------------------------------------------------------
* Output Resistance (for load regulation)
* ~50mΩ typical for AMS1117
*------------------------------------------------------------------------------
ROUT VREG VOUT_INT 50m

*------------------------------------------------------------------------------
* Current Limit
* Foldback current limiting at ~1.2A
*------------------------------------------------------------------------------
BLIMIT VOUT_INT VOUT_LIM I={
+ min(V(VREG,VOUT_INT)/50m, ILIMIT)
+ }

*------------------------------------------------------------------------------
* Output Capacitor ESR interaction
* Small resistance to model stability
*------------------------------------------------------------------------------
RESR VOUT_LIM VOUT 10m

*------------------------------------------------------------------------------
* Ground Pin Current (Quiescent + Pass-through)
*------------------------------------------------------------------------------
GQUIESCENT GND VIN DC {IQ}
GPASS GND VIN VALUE={ I(HSENSE) }

*------------------------------------------------------------------------------
* Thermal Shutdown Model (simplified)
* Shutdown at TJ > 150°C
*------------------------------------------------------------------------------
* Not modeled in this basic version

*------------------------------------------------------------------------------
* PSRR Model (AC behavior)
* Low-pass filter from input to output
*------------------------------------------------------------------------------
* Simplified: included in EREG error amplifier gain

.ENDS LDO_3V3
