* REF2025 portable ngspice behavioural port
*
* Provenance: parameters and pin order are derived from TI's REF2025 PSpice
* model (SBOM894) and datasheet. This is an independently written, portable
* behavioural implementation; it does not include TI model source text.
*
* Pin order: VBIAS, GND, EN, VIN, VREF
* Scope: nominal DC/transient supply-enable behaviour for system simulation.
* It does not model noise, PSRR, startup statistics, or production tolerance.

.subckt REF2025_NGSPICE VBIAS GND EN VIN VREF
+ params: VBIAS_NOM=1.25 VREF_NOM=2.5 VIN_MIN=2.52 ROUT=1

B_VBIAS VBIAS_INT GND V={ternary_fcn(v(EN,GND)>0.8,ternary_fcn(v(VIN,GND)>VIN_MIN,VBIAS_NOM,0),0)}
B_VREF VREF_INT GND V={ternary_fcn(v(EN,GND)>0.8,ternary_fcn(v(VIN,GND)>VIN_MIN,VREF_NOM,0),0)}
R_VBIAS VBIAS_INT VBIAS {ROUT}
R_VREF VREF_INT VREF {ROUT}
C_VBIAS VBIAS GND 28n
C_VREF VREF GND 28n
.ends REF2025_NGSPICE
