* TLV3201 portable ngspice behavioural port
*
* Provenance: pin order and nominal values are derived from TI's TLV3201
* PSpice model (SBOMBT6) and datasheet. This is an independently written,
* portable behavioural implementation; it does not include TI model source.
*
* Pin order: IN+, IN-, VCC, GND, OUT
* Scope: DC window validation and nominal output loading. The model declares
* the 2.70 V supply floor and nominal 1 mV input offset used by the TI model.
* It intentionally does not claim a timing, noise, or temperature model.

.subckt TLV3201_NGSPICE INP INN VCC GND OUT
+ params: VCC_MIN=2.70 VOS=1m ROUT=60

* TI's full model drives a mid-supply output outside the rated supply range.
* This portable safety model instead exposes that invalid state explicitly as
* mid-supply; the upstream TPS3700 must remove permission before it matters.
B_RAW RAW GND V={ternary_fcn(v(VCC,GND)>=VCC_MIN,ternary_fcn(v(INP,INN)>VOS,v(VCC,GND),0),0.5*v(VCC,GND))}
R_OUT RAW OUT {ROUT}
C_OUT OUT GND 0.5p
.ends TLV3201_NGSPICE
