*******************************************************************************
* XC6220B331 Low-Noise LDO Model (Simplified for Simulation)
* 3.3V 700mA Ultra-Low Noise Regulator
* Based on Torex XC6220 datasheet specifications
*******************************************************************************

.SUBCKT XC6220_3V3 VIN VOUT GND CE

*------------------------------------------------------------------------------
* Parameters from datasheet
*------------------------------------------------------------------------------
* VREF = 3.3V, ILIMIT = 850mA, IQ = 8µA
* Noise: 6.5µV RMS, PSRR: 75dB @ 1kHz

*------------------------------------------------------------------------------
* Simple Behavioral Model
* Output = VREF when VIN > VREF + dropout
* PSRR modeled as attenuated ripple injection
*------------------------------------------------------------------------------

* Error amplifier: high gain regulation to 3.3V
* Uses voltage-controlled voltage source with limiting
EREG VREG 0 VALUE={LIMIT(3.3 + (3.3 - V(VOUT_INT))*100, 0, V(VIN))}

* Pass element with output resistance
RPASS VREG VOUT_INT 0.1

* Load regulation (15mΩ output impedance)
ROUT VOUT_INT VOUT 15M

* PSRR: attenuate input ripple by 80dB (factor of 10000)
* Inject tiny fraction of input ripple to output
EPSRR VOUT N_OUT_FINAL VALUE={V(VIN)*0.0001}

* Dummy resistance for output node
RDUMMY N_OUT_FINAL 0 1MEG

* Quiescent current (8µA)
RQUIESCENT VIN 0 625K

.ENDS XC6220_3V3
